US05159103
A mixture of 8 g of 7-methoxy-2-tetralone, 4.8 g of benzylamine, 150 ml of anhydrous toluene and 100 mg of p.toluenesulfonic acid is refluxed for three hours. The mixture is evaporated to dryness, the oily residue is taken up with 100 ml of methanol and to the solution thus obtained 8.5 g of sodium borohydride are cautiously added at 0°-5° C. The mixture is left under stirring at room temperature for a night, then added with 50 ml of water and left under stirring for 30 minutes. The solvent is evapored, the residue is taken up with 30 ml of water and 10 ml of a concentrated solution of ammonium hydroxide. After extraction with 200 ml of ethyl acetate, the organic phase is dried over sodium sulfate, filtered and evaporated to dryness. A dark coloured oil is obtained, which is purified by flash chromatography using a mixture ethyl acetate/methanol 95/5 as an eluent. The base so obtained is converted into its hydrochloride by solution in 40 ml of isopropanol and addition of isopropanol saturated with hydrogen chloride to give 11.4 g of 2-benzylamino-7-methoxytetraline hydrochloride; m.p. 265°-267° C. (dec.).

reactant | 7-methoxy-2-tetralone | 8 g | COC1=CC=C2CCC(CC2=C1)=O | C11H12O2
reactant | benzylamine | 4.8 g | C(C1=CC=CC=C1)N | C7H9N
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | hydrochloride | Cl | ClH
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzylamino-7-methoxytetraline hydrochloride | 11.4 g | Cl.C(C1=CC=CC=C1)NC1CC2=CC(=CC=C2CC1)OC | InChI=1S/C18H21NO.ClH/c1-20-18-10-8-15-7-9-17(11-16(15)12-18)19-13-14-5-3-2-4-6-14;/h2-6,8,10,12,17,19H,7,9,11,13H2,1H3;1H
